US04937373
To 20 g (0.145 mol) of 1,2-dimethoxybenzene in 300 mL of anhydrous tetrahydrofuran stirred at room temperature under argon was added 90 mL (0.145 mol) of 1.6 M butyl lithium in hexane over 30 minutes. The reaction mixture was stirred and heated at 40° for 4 hours and then cooled in an ice bath. Ethylene oxide (14 mL. 0.29 mol) was allowed to distill into the ice cooled reaction mixture over 45 minutes. The reaction mixture was stirred with ice bath cooling for 1.5 hours and then at room temperature for 17 hours. Most of the solvent was removed under reduced pressure and water was added to the residue. The product was extracted with ether and the dried extract was concentrated under reduced pressure to an oil. The remaining 1,2-dimethoxybenzene (7.5 g) was removed by distillation (bP 45°-60°/0.2 mm) and the residue was purified by HPLC using 20% ethylacetate-toluene to give 5 g (19 % yield) of 1-(2-hydroxyethyl)-2,3-dimethoxybenzene. This intermediate (5 g, 0.028 mol) was dissolved in 100 mL of anhydrous methylene chloride and the solution was cooled in an ice bath. Triethylamine (7.7 mL, 0.056 mol) was added and followed by 2.6 mL (0.033 mol) of methane sulfonyl chloride added dropwise. The reaction mixture was stirred with ice bath cooling for two hours and then was washed with water, with sodium bicarbonate solution, dried and concentrated under reduced pressure to give (7.2 g) of 1-[(2-methanesulfonyloxy)ethyl]-2,3-dimethoxybenzene as an oil which was used without purification.

reactant | 1,2-dimethoxybenzene | 0.145 mol, 20 g | COC1=C(C=CC=C1)OC | C8H10O2
reactant | butyl lithium | 0.145 mol, 1.6 M, 90 mL | C(CCC)[Li]
reactant | Ethylene oxide | 0.29 mol, 14 mL | C1CO1 | C2H4O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-(2-hydroxyethyl)-2,3-dimethoxybenzene | 5 g, 19 % yield | OCCC1=C(C(=CC=C1)OC)OC | C10H14O3
